US08541589B2
To a mixture of 4-cyanophenylboronic acid (49 mg, 0.33 mmol) and Pd(dppf)Cl2 (9 mg, 5% mole) were added a solution of freshly purified ethyl 2-(3-bromopyridin-4-ylthio)-2-methylpropanoate from (step B, 67 mg, 0.22 mmol) in THF (1 mL), acetonitrile (0.5 mL), and sodium carbonate (1M aqueous, 0.5 mL). The resulting mixture was degassed by nitrogen bubbling for 1 minute, and then heated to 150° C. for 30 minutes under microwave irradiation. The mixture was loaded on to a 5 g ISCO loading cartridge and eluded with a gradient of 0-100% ethyl acetate in hexane on a 12 g ISCO column to yield ethyl 2-(3-(4-cyanophenyl)pyridin-4-ylthio)-2-methylpropanoate (0.049 g, 70%).

reactant | 4-cyanophenylboronic acid | 0.33 mmol, 49 mg | C(#N)C1=CC=C(C=C1)B(O)O | C7H6BNO2
reactant | ethyl 2-(3-bromopyridin-4-ylthio)-2-methylpropanoate | BrC=1C=NC=CC1SC(C(=O)OCC)(C)C | C11H14BrNO2S
reactant | acetonitrile | 0.5 mL | C(C)#N | C2H3N
reactant | sodium carbonate | 1M, 0.5 mL | C([O-])([O-])=O.[Na+].[Na+]
solvent | THF | 1 mL | C1CCOC1 | C4H8O
catalyst | Pd(dppf)Cl2 | 9 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | ethyl 2-(3-(4-cyanophenyl)pyridin-4-ylthio)-2-methylpropanoate | 0.049 g, 70% | C(#N)C1=CC=C(C=C1)C=1C=NC=CC1SC(C(=O)OCC)(C)C | C18H18N2O2S
